US07488844B2
(ii) Ethyl(2S)-3-(4-{2-[(4-chlorobenzyl)(4-isopropylbenzyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoate
To a solution of N-(4-chlorobenzyl)-N-(4-isopropylbenzyl)amine (1.64 g, 6.0 mmol) in methylene chloride (50 mL) at 0° C. were added {4-[(2S)-2,3-diethoxy-3-oxopropyl]phenoxy}acetic acid (1.48 g, 5.0 mmol) and N,N-diisopropylethylamine (2.0 mL, 11.5 mmol) followed by O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (1.93 g, 6.0 mmol) and the reaction mixture was stirred overnight. The mixture was diluted with methylene chloride (100 mL) and the organic phase was washed with 2 M HCl (3×75 mL), saturated aqueous NaHCO3 (2×75 mL, some emulsions), and brine (75 mL), dried over Na2SO4, and concentrated in vacuo. Twice repeated purification on silica gel with methanol (0-5% gradient) in methylene chloride as the eluent and collection of pure fractions afforded 1.28 g (46%) of a colourless oil.

reactant | N-(4-chlorobenzyl)-N-(4-isopropylbenzyl)amine | 6.0 mmol, 1.64 g | ClC1=CC=C(CNCC2=CC=C(C=C2)C(C)C)C=C1 | C17H20ClN
reactant | {4-[(2S)-2,3-diethoxy-3-oxopropyl]phenoxy}acetic acid | 5.0 mmol, 1.48 g | C(C)O[C@@H](CC1=CC=C(OCC(=O)O)C=C1)C(=O)OCC | C15H20O6
reactant | N,N-diisopropylethylamine | 11.5 mmol, 2.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 6.0 mmol, 1.93 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | Ethyl(2S)-3-(4-{2-[(4-chlorobenzyl)(4-isopropylbenzyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoate | 1.28 g, 46% | ClC1=CC=C(CN(C(COC2=CC=C(C=C2)C[C@@H](C(=O)OCC)OCC)=O)CC2=CC=C(C=C2)C(C)C)C=C1 | C32H38ClNO5
